US09108939B2
C: 1-(2-Chloro-4-((1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)methyl)phenyl)-3-(2-hydroxy-2-methylpropyl)urea
A solution of 2-(4-((4-(4-amino-3-chlorobenzyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.416 mmol, 200 mg) and 4-nitrophenyl carbonochloridate (0.416 mmol, 84 mg) in tetrahydrofuran (5 mL) was stirred at room temperature for 30 minutes. 1-Amino-2-methylpropan-2-ol (0.832 mmol, 0.106 mL, 74.1 mg) was added and the reaction was stirred at room temperature overnight. The reaction mixture was concentrated under vacuum and the residue purified by silica column chromatography (eluent: dichloromethane-5% methanol in dichloromethane) to afford the title compound (58.5 mg). MS (ESI) m/z 596.5 [M+H]+

reactant | 2-(4-((4-(4-amino-3-chlorobenzyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.416 mmol, 200 mg | NC1=C(C=C(CC2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=C1)Cl | C22H23ClF6N2O
reactant | 4-nitrophenyl carbonochloridate | 0.416 mmol, 84 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | 1-Amino-2-methylpropan-2-ol | 0.832 mmol, 0.106 mL, 74.1 mg | NCC(C)(O)C | C4H11NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-(2-Chloro-4-((1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)methyl)phenyl)-3-(2-hydroxy-2-methylpropyl)urea | 58.5 mg | ClC1=C(C=CC(=C1)CC1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)NC(=O)NCC(C)(C)O | C27H32ClF6N3O3
